US07615642B2
2-tert-Butyl-5-[(3,3-difluoroazetidin-1-yl)sulfonyl]-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole
Following the same procedure in Example 1, Step A, using 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (90 mg, 0.24 mmol), 3,3-difluoroazetidine (45 mg, 0.49 mmol) and DMAP (59 mg, 0.49 mmol) in MeCN (10 mL). The crude product was purified by MPLC using Hex/EtOAc (1:1) on silica gel to give 68 mg (66%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.46-1.63 (m, 4 H), 1.65 (s, 9 H), 2.27-2.44 (m, 1 H), 3.30-3.39 (m, 2 H), 3.89-3.98 (m, 2 H), 4.20 (t, J=12.30 Hz, 4 H), 4.51 (d, J=7.62 Hz, 2 H), 7.93 (dd, J=8.69, 1.66 Hz, 1 H), 8.05 (d, J=8.79 Hz, 1 H), 8.19 (d, J=1.17 Hz, 1 H); MS (ESI) (M+H)+=427.8; Anal. Calcd for C20H27F2N3O3S+1.10 TFA+0.3 CH3CN (565.26): C, 48.45; H, 5.17; N, 8.18. Found: C, 48.42; H, 4.86; N, 8.20.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 0.24 mmol, 90 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | 3,3-difluoroazetidine | 0.49 mmol, 45 mg | FC1(CNC1)F | C3H5F2N
catalyst | DMAP | 0.49 mmol, 59 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 2-tert-Butyl-5-[(3,3-difluoroazetidin-1-yl)sulfonyl]-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole | 68 mg, 66% | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2CC(C2)(F)F | C20H27F2N3O3S
